US04870074
Preparation of 2,3-methylenedioxy-N-[(4-benzyl-2-morpholinyl)methyl]benzamide
The title compound is prepared in substantially the same manner as in Example 6(1), using 2-aminomethyl-4-benzylmorpholine and 2,3-methylenedioxybenzoic acid, respectively, in place of 2-aminomethyl-4-(4-cyanobenzyl)morpholine and 4-amino-5-chloro-2-methoxybenzoic acid in Example 6(1). The free base thus obtained is treated in substantially the same manner as in Example 6(2) to give the fumarate 1/4 hydrate of the title compound, mp 144°-146° C. (recrystallized from ethanol).

reactant | 2-aminomethyl-4-benzylmorpholine | NCC1CN(CCO1)CC1=CC=CC=C1 | C12H18N2O
reactant | 2,3-methylenedioxybenzoic acid | C1OC2=C(C(=O)O)C=CC=C2O1 | C8H6O4
reactant | 2-aminomethyl-4-(4-cyanobenzyl)morpholine | NCC1CN(CCO1)CC1=CC=C(C=C1)C#N | C13H17N3O
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 2,3-methylenedioxy-N-[(4-benzyl-2-morpholinyl)methyl]benzamide | C1OC2=C(C(=O)NCC3CN(CCO3)CC3=CC=CC=C3)C=CC=C2O1 | C20H22N2O4
